Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
___ is a ___ year old ___ woman with no previous
psychiatric history who was referred from ___ counseling for
increasing depressive symptoms and suicidal ideation.
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient reports that she has been depressed for the past 2 
months, and has been anxious about her school work. She has had 
difficulty falling asleep, and has been missing some classes 
this past week due to her erratic sleeping. Last week, was 
notified about an academic misconduct after a friend reportedly 
copied one of her papers, and she became increasingly depressed, 
and over the weekend, had a fleeting thought of wanting to jump 
in front of traffic on the freeway by where she lives. This 
prompted her to present to the ___ counseling center. 

Patient also reports approximately 2 months of severe anxiety, 
which has been manifesting in a variety of somatic ways 
including abdominal pain, indigestion and non-induced 
post-prandial vomiting.

She also reported significant relief when she told her parents 
about her symptoms while in the ___ ED just prior to arrival 
to ___ 4, and was particularly comforted to hear that they were 
very supportive of her getting the help she needs.  

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Denies history of previous hospitalizations or mental health
treatment, including medication trials. Denies history of
self-injurious behavior or suicide attempts. Denies access to
firearms. No current or historical urges to harm others.

PAST MEDICAL HISTORY:
No significant or previous medical history. Denies history of
TBI, seizure, or LOC
 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
Denies family history of mental illness, psychiatric 
hospitalizations, attempted or completed suicides.
 
Physical Exam:
Vitals: T 97.9, BP 105/61, HR 84, RR 16
Neuro- CN II-XII intact, normal gait strength wnl, moving upper 
and lower extremities spontaneously and with full range of 
motion
Neuropsychiatric Examination:
  *Appearance: well groomed, age-appearing woman.
  *Behavior: cooperative with interview
  *Mood and Affect: "good!", affect euthymic, mood-congruent, 
non-labile.
  *Thought process: logical and linear
  *Thought Content: Currently denying SI; no HI; no AH/VH
  *Judgment and Insight: fair/ fair

  *Attention:  attends to interview
  *Orientation:  Alert and oriented x 3
  *Memory:  intact to personal history both recent and remote
  *Fund of knowledge:  Appropriate to level of education
  *Speech: Normal rate, tone and volume
  *Language: Fluent ___ speaker, no paraphasic errors
 
Pertinent Results:
___ 09:39PM URINE  UCG-NEGATIVE
___ 09:39PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:39PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:39PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 09:39PM URINE  RBC-1 WBC-<1 BACTERIA-FEW YEAST-NONE 
EPI-2
___ 09:39PM URINE  MUCOUS-RARE
___ 07:26PM   GLUCOSE-97 UREA N-9 CREAT-0.7 SODIUM-139 
POTASSIUM-4.0 CHLORIDE-103 TOTAL CO2-28 ANION GAP-12
___ 07:26PM   estGFR-Using this
___ 07:26PM   TSH-1.9
___ 07:26PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:26PM   WBC-5.4 RBC-4.49 HGB-12.9 HCT-39.6 MCV-88 
MCH-28.7 MCHC-32.6 RDW-11.9 RDWSD-38.5
___ 07:26PM   NEUTS-56.4 ___ MONOS-5.2 EOS-0.9* 
BASOS-0.6 IM ___ AbsNeut-3.07 AbsLymp-1.98 AbsMono-0.28 
AbsEos-0.05 AbsBaso-0.03
___ 07:26PM   PLT COUNT-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission.  

2. PSYCHIATRIC:
#) Major Depressive Disorder versus Adjustment Disorder with 
Depressed Mood
- Patient was started on Citalopram 10 mg PO Daily, which was 
well-tolerated.
#) Unspecified Anxiety Disorder
- Patient was started on a low dose benzodiazepine, Lorazepam 
0.25 mg PO BID, as a temporizing medication until the Citalopram 
takes full effect.

3. SUBSTANCE USE DISORDERS:
#) None

4. MEDICAL
#) Patient has no medical history or complaints that were 
addressed during this admission.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
- Collateral was obtained from ___, who did an initial 
evaluation ___ at ___.
- Patient updated family daily on the progress of her hospital 
stay.

#) INTERVENTIONS
- Medications: Citalopram 10 mg PO Daily, Lorazepam 0.25 mg PO 
BID.
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Patient will follow-up with a 
therapist in ___.
- Behavioral Interventions: Coping skills were reviewed as were 
resources should patient feel suicidal again in the future. 

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon her 
recent suicidal thoughts and anxiety.  

Her static factors noted at that time include single status and 
status as a college student w/ finals approaching.

The modifiable risk factors were also addressed at time of 
admission and throughout her hospital stay, and include:  
- Suicidal ideation: Patient reported resolution of these 
thoughts after she told her parents about her recent symptoms.  
During her hospital stay, she was started on Citalopram 10 mg PO 
Daily, and Lorazepam 0.25 mg PO BID as a short-term therapy 
while her Citalopram takes full effect.
- Lack of outpatient treaters.  Patient was given contact 
information to establish treaters in ___ when she returns 
in 2 weeks ___ ___
- Limited social supports including difficulty opening up about 
her feelings to peers: Patient is forward-thinking about next 
semester and is planning to meet with a therapist regularly.

Finally, the patient is being discharged with many protective 
risk factors, including her ___ faith, help-seeking 
behavior, high functioning intellectually, no substance use, 
sense of responsibility to family, future-oriented viewpoint

Overall, based on the totality of our assessment at this time, 
the patient is not at an acutely elevated risk of self-harm nor 
danger to others. 

Our Prognosis of this patient is, good.

 
Medications on Admission:
None
 
Discharge Medications:
1. Citalopram 10 mg PO DAILY 
2. LORazepam 0.25 mg PO BID (Do not take with alcohol) for two 
weeks

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Adjustment Disorder with Depressed Mood vs. Major Depressive 
Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
___,

As you know, you were recently admitted to the ___ Psychiatry 
Service after being sent here from your BU counselor for 
suicidal ideation. While you were here, you were evaluated by a 
team of psychiatrists and social workers. 

Please follow up with a therapist in ___.  It was a 
pleasure taking part in your care!
-Your ___ Psychiatry Team

 
Followup Instructions:
___